US07652049B2
3-Benzyl-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one
To a 0° C. solution of 44 mg of 5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one in 1 mL of DMF was added 10 mg of sodium hydride. The mixture was stirred 10 min at room temperature, and then 24 mg of benzyl bromide was added. The mixture was stirred overnight at room temperature, then diluted with 15 mL of EtOAc and 5 mL of water. The phases were separated and the organic phase was washed with 5 mL each of water and brine, dried (Na2SO4), and concentrated. The residue was purified by flash chromatography on a Biotage Horizon, 25S column, eluting with 1 CV of hexanes, followed by a linear gradient of EtOAc in hexanes from 0 to 50% over 10 CV to provide the title compound. Mass spectrum (ESI) 470.1 (M+1). 1H NMR (500 MHz, CDCl3): δ 7.86, 7.76 (s, 1H), 7.62 (d, J=8 Hz, 1H), 7.14-7.40 (m, 7H), 7.01, 6.77 (d, J=2.5 Hz, 1H), 6.87, 6.83 (d, J=8.5 Hz, 1H), 5.45, 5.53 (m, 1H), 4.30-4.53 (m, 2H), 3.73, 3.55 (s, 3H), 3.48, 3.30 (m, 1H), 3.10, 2.96 (t, J˜8.5 Hz, 1H), 2.89, 2.82 (septet, J=7 Hz, 1H), 1.24, 1.16 (m, 6H).

reactant | 5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one | 44 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)C1CNC(O1)=O)OC | C20H20F3NO3
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | benzyl bromide | 24 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
solvent | water | 5 mL | O | H2O
product | 3-Benzyl-5-[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-1,3-oxazolidin-2-one | C(C1=CC=CC=C1)N1C(OC(C1)C1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)=O | C27H26F3NO3
